US04647566
To a mixture of 2N HCl (50 mL) and ethanol (200 mL), ethyl 4-hydroxy-6-oxo-5,6,7,8-tetrahydroquinoline-3-carboxylate ethylene ketal (10.0 g) is added. Resultant suspension is stirred at room temperature for 24 hours under nitrogen atmosphere. The reaction mixture is neutralized with NaOH and concentrated to remove most of ethanol. The resulting precipitate is collected, washed with water, air dried, then dried in a vacuum oven at 80° to yield ethyl 4-hydroxy-6-oxo-5,6,7,8-tetrahydroquinoline-3-carboxylate.

reactant | HCl | 2N, 50 mL | Cl | ClH
reactant | ethyl 4-hydroxy-6-oxo-5,6,7,8-tetrahydroquinoline-3-carboxylate ethylene ketal | 10.0 g | C1COC(OCC)(C=2C=NC=3CCC(CC3C2O)=O)O1 | C14H17NO5
reactant | NaOH | [OH-].[Na+]
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | ethyl 4-hydroxy-6-oxo-5,6,7,8-tetrahydroquinoline-3-carboxylate | OC1=C(C=NC=2CCC(CC12)=O)C(=O)OCC | C12H13NO4
